US06340759B1
Propyl-(4-tributylstannylphenyl)sulfone (1.59 g) and 3-bromo-1-(4-formylpiperazin-1-yl)isoquinoline (0.93 g) were heated under reflux in the presence of tetrakistriphenylphosphinepalladium(0) (0.13 g) in xylene in nitrogen atmosphere overnight. After cooling, the reaction solution was diluted with ethyl acetate and filtered. The filtrate was extracted with 5N hydrochloric acid, and the resulting aqueous layer was washed with ethyl acetate. Then, it was adjusted to pH 10 by a 8N aqueous solution of sodium hydroxide, extracted with ethyl-acetate, washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 1-(4-formylpiperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline (0.76 g).

reactant | Propyl-(4-tributylstannylphenyl)sulfone | 1.59 g | C(CC)S(=O)(=O)C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromo-1-(4-formylpiperazin-1-yl)isoquinoline | 0.93 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)C=O | C14H14BrN3O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-formylpiperazin-1-yl)-3-[4-(propylsulfonyl)phenyl]isoquinoline | 0.76 g | C(=O)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)CCC | C23H25N3O3S
